### PR TITLE
[Merged by Bors] - feat(RingTheory):Add lemma about factorPow

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
Add two lemma about factorPow.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean [hunk 1]
```diff
@@ -106,3 +106,47 @@ abbrev factorPowSucc (n : ℕ) : R ⧸ I ^ (n + 1) →+* R ⧸ I ^ n :=
 end Quotient
 
 end Ideal
+
+namespace factorPow
+
+variable {R : Type*} [CommRing R] (I : Ideal R)
+
+lemma ideal_comap {a b : ℕ} (apos : a > 0) (le : a ≤ b) :
+    I.map (mk (I ^ b)) = (I.map (mk (I ^ a))).comap (factorPow I le)  := by
```
[the remark this answers is not in the document]
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:115]: It can, for now I only separated out the original lemma.

File: Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean [hunk 2]
```diff
@@ -106,3 +106,47 @@ abbrev factorPowSucc (n : ℕ) : R ⧸ I ^ (n + 1) →+* R ⧸ I ^ n :=
...
+    rw [← factor_mk (pow_le_pow_right le) _] at eq
+    have : x - ((mk (I ^ b)) r) ∈ (I ^ a).map (mk (I ^ b)) := by
+      simp [← factor_ker (pow_le_pow_right le), ← eq]
+    rcases mem_image_of_mem_map_of_surjective (mk (I ^ b))
+      Ideal.Quotient.mk_surjective this with ⟨s, hs, eq'⟩
+    rw [← add_sub_cancel ((mk (I ^ b)) r) x, ← eq', ← map_add]
+    exact mem_map_of_mem _ (Submodule.add_mem _ hr (pow_le_self (Nat.not_eq_zero_of_lt apos) hs))
+
+variable {I} in
+lemma IsUnit_of_IsUnit_image {n : ℕ} (npos : n > 0) {a : R ⧸ I ^ (n + 1)}
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:133]:
```suggestion
lemma isUnit_of_isUnit_image {n : ℕ} (npos : n > 0) {a : R ⧸ I ^ (n + 1)}
```

File: Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean [hunk 3]
```diff
@@ -106,3 +106,47 @@ abbrev factorPowSucc (n : ℕ) : R ⧸ I ^ (n + 1) →+* R ⧸ I ^ n :=
...
+    (h : IsUnit ((factorPow I n.le_succ) a)) : IsUnit a := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:134]: I think you could drop some parentheses
```suggestion
    (h : IsUnit (factorPow I n.le_succ a)) : IsUnit a := by
```

File: Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean [hunk 4]
```diff
@@ -106,3 +106,47 @@ abbrev factorPowSucc (n : ℕ) : R ⧸ I ^ (n + 1) →+* R ⧸ I ^ n :=
 end Quotient
 
 end Ideal
+
+namespace factorPow
+
+variable {R : Type*} [CommRing R] (I : Ideal R)
+
+lemma ideal_comap {a b : ℕ} (apos : a > 0) (le : a ≤ b) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:114]:
```suggestion
lemma ideal_comap {a b : ℕ} (apos : 0 < a) (le : a ≤ b) :
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks; some superficial comments below

**Comment by riccardobrasca** [comment]
Taking into account the above comments LGTM, thanks!

bors d+

**Comment by Thmoas-Guan** [comment]
@riccardobrasca There are some bit more changes, can you have a look? Thanks
Also, do we need the version for `factorPow` instead of `factorPowSucc` for `isUnit_of_IsUnit_image`? I remember @jjdishere once mentioned a method to deal with it?

File: Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean [hunk 5]
```diff
@@ -106,3 +121,30 @@ abbrev factorPowSucc (n : ℕ) : R ⧸ I ^ (n + 1) →+* R ⧸ I ^ n :=
...
+
+variable {R : Type*} [CommRing R] (I : Ideal R)
+
+lemma Ideal.map_mk_comap_factorPow {a b : ℕ} (apos : 0 < a) (le : a ≤ b) :
+    (I.map (mk (I ^ a))).comap (factorPow I le) = I.map (mk (I ^ b))  := by
+  apply Ideal.map_mk_comap_factor
+  exact pow_le_self (Nat.not_eq_zero_of_lt apos)
+
+variable {I} in
+lemma factorPowSucc.isUnit_of_IsUnit_image {n : ℕ} (npos : n > 0) {a : R ⧸ I ^ (n + 1)}
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Quotient/PowTransition.lean:133]:
```suggestion
lemma factorPowSucc.isUnit_of_isUnit_image {n : ℕ} (npos : n > 0) {a : R ⧸ I ^ (n + 1)}
```

**Review by riccardobrasca — APPROVED** [review]
LGTM. We can always add another lemma later.

bors d+
